US09428511B2
A solution of (3S,4S)-tert-butyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate (22.2 mg, 0.049 mmol), 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (21.56 mg, 0.097 mmol), PdCl2(dppf) CH2Cl2 Adduct (1:1) (3.99 mg, 4.85 μmol) in dioxane (0.5 ml) and 2M aq K3PO4 (0.073 ml, 0.146 mmol) in dioxane (0.5 ml) in a reaction vial was purged with N2 for 2 min. The reaction mixture was sealed and heated at 100° C. for 120 min. The reaction mixture was partitioned between EtOAc and water. The organic phase was washed with brine, filtered through CELITE®, dried (Na2SO4) and concentrated. The crude product was purified by flash column (ISCO 12 g-column, 20-80% EtOAc/hexane over 15 min) to afford (3S,4S)-tert-butyl 3-((7-carbamoyl-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate (15 mg, 0.032 mmol, 65.4% yield) as a white solid. ESI-MS (Method A): m/z 473.4 ([M+H]+).

reactant | (3S,4S)-tert-butyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate | 0.049 mmol, 22.2 mg | BrC=1N=C2N(N=CC(=C2N[C@@H]2CN(C[C@@H]2CF)C(=O)OC(C)(C)C)C(N)=O)C1 | C17H22BrFN6O3
reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.097 mmol, 21.56 mg | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
reactant | K3PO4 | 0.146 mmol, 2M, 0.073 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 4.85 μmol, 3.99 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (3S,4S)-tert-butyl 3-((7-carbamoyl-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-8-yl)amino)-4-(fluoromethyl)pyrrolidine-1-carboxylate | 0.032 mmol, 15 mg, 65.4% yield | C(N)(=O)C1=C(C=2N(N=C1)C=C(N2)C=2C=NN(C2)CC)N[C@@H]2CN(C[C@@H]2CF)C(=O)OC(C)(C)C | C22H29FN8O3
